US08053440B2
To a solution of 2-bromobenzaldehyde (1.85 g, 10 mmol) and 4-methoxyphenyl acetylene (1.58 g, 12 mmol) in 40 mL of triethylamine were added dichlorobis(triphenylphosphine)palladium(II) (140 mg, 2 mol %) and copper (I) iodide (20 mg, 1 mol %). The reaction mixture was heated at 50° C. under nitrogen for 3 h. The reaction mixture was cooled to room temperature and the ammonium salt was removed by filtration. The filtrate was concentrated under reduced pressure. Purification of the crude compound by column chromatography (silica gel 230-400 mesh; 10% ethyl acetate in hexanes as eluent) afforded 2-(4-methoxyphenylethynyl)benzaldehyde (2.1 g, 89%). The above compound (2.06 g, 8.73 mmol) and t-butylamine (3.83 g, 52.4 mmol) were stirred under nitrogen for 24 h at room temperature. The resulting mixture was extracted with ether and the organic layer was dried over anhydrous Na2SO4, and concentrated to give the imine (2.4 g, 94%), which was used in the next step without further purification. To a solution of the above imine (2.39 g, 8.2 mmol) in 100 mL anhydrous DMF was added (0.156 g, 0.82 mmol) copper (I) iodide, and the solution was flushed with nitrogen. The reaction mixture was heated at 100° C. for 4 h. The mixture was cooled to room temperature, and diluted with ether (200 mL). The organic layer was washed with saturated aqueous ammonium chloride (3×100 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated to give the crude compound as a dark colored solid. Purification by column chromatography (silica gel 230-400 mesh; 10% ethylacetate in hexanes as eluent) afforded 3-(4-methoxyphenyl)isoquinoline (1.064 g, 55%), as a white solid. The 3-(4-methoxyphenyl)isoquinoline (1.05 g, 4.47 mmol) was suspended in 30 mL hydroiodic acid and 12 mL of acetic acid was added. The reaction mixture was stirred at 110° C. for 2 h, then cooled to room temperature. The precipitate formed was filtered off, washed with acetic acid (2×5 mL) and dried under vacuum, to give a yellow solid. The crude compound was purified by triturating with 5% methanol in ether to give 4-isoquinolin-3-yl-phenol (0.83 g, 84%) as a white powder. Selected data: MS (ES) m/z: 222.89, 221.86; MP 218-219° C.

reactant | 3-(4-methoxyphenyl)isoquinoline | 4.47 mmol, 1.05 g | COC1=CC=C(C=C1)C=1N=CC2=CC=CC=C2C1 | C16H13NO
reactant | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
solvent | hydroiodic acid | 30 mL | I | HI
product | 4-isoquinolin-3-yl-phenol | 0.83 g, 84% | C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)O | C15H11NO
